US07557125B2
a) N-Methyl-N-(1-methyl-1H-indol-2-ylmethyl)acrylamide
To a solution of 1-methyl-2-methylaminomethyl)indole (0.96 g, 55 mmole), from Preparation 1, and triethylamine (1.54 mL, 11.0 mmole) in CH2Cl2 (50 mL) at 5° C. was added acryloyl chloride (0.48 mL, 6.0 mmole). After 45 min, the reaction solution was poured onto H2O and the layers were separated. The organic phase was dried over Na2SO4 and concentrated to afford the title compound as a yellow oil. This was used directly without further purification.

reactant | indole | 55 mmole, 0.96 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | triethylamine | 11.0 mmole, 1.54 mL | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 6.0 mmole, 0.48 mL | C(C=C)(=O)Cl | C3H3ClO
reactant | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | N-Methyl-N-(1-methyl-1H-indol-2-ylmethyl)acrylamide | CN(C(C=C)=O)CC=1N(C2=CC=CC=C2C1)C | C14H16N2O
